US04999381
The crude 2-chloro-4-(2'-methylpropionamido)benzoyl chloride from the preceding reaction in dry THF (10 ml) was added dropwise with stirring over 10-15 minutes to a solution of diethylamine (1.46 g) in dry THF (10 ml), at 0°-5° C. After stirring at 0°-10° C. the reaction mixture was stood overnight at room temperature, poured into cold water and extracted with ethyl acetate. This extract was dried and evaporated to give a viscous gum which crystallised slowly and was then recrystallised from ethyl acetate to give 2-chloro-4-(2'-methylpropionamido)-N,N-diethylbenzamide as white crystals (0.507 g).

reactant | 2-chloro-4-(2'-methylpropionamido)benzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)NC(C(C)C)=O | C11H11Cl2NO2
reactant | diethylamine | 1.46 g | C(C)NCC | C4H11N
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-chloro-4-(2'-methylpropionamido)-N,N-diethylbenzamide | 0.507 g | ClC1=C(C(=O)N(CC)CC)C=CC(=C1)NC(C(C)C)=O | C15H21ClN2O2
